US06093731
A solution 4-aminotetrahydro-2H-pyran-4-carboxylic acid (0.50 g, 3.4 mmol) in MeOH (10 mL) was saturated with HCl gas at 0-5° C., and the mixture was then heated at reflux for 3.5 h. The solvents were evaporated in vacuo, the residue was dissolved in saturated aqueous NaHCO3 and the aqueous solution was extracted with CH2Cl2 (2×50 mL). The combined extracts were dried (MgSO4) and evaporated in vacuo to give methyl 4-aminotetrahydro-2H-pyran-4-carboxylate (410 mg, 2.58 mmol).

reactant | 4-aminotetrahydro-2H-pyran-4-carboxylic acid | 3.4 mmol, 0.50 g | NC1(CCOCC1)C(=O)O | C6H11NO3
reactant | HCl | Cl | ClH
reactant | MeOH | 10 mL | CO | CH4O
product | methyl 4-aminotetrahydro-2H-pyran-4-carboxylate | 2.58 mmol, 410 mg | NC1(CCOCC1)C(=O)OC | C7H13NO3
